US07652004B2
Methyl 5-iodo-1,3-dimethyl-1H-pyrazole-4-carboxylate
To a solution of methyl 1,3-dimethyl-1H-pyrazole-4-carboxylate (154 mg, 1 mmol) in dry tetrahydrofuran (10 mL) at −78° C., 2 M solution of BuLi (0.550 mL, 1.100 mmol) in pentane was added dropwise. The reaction mixture was then warmed to −45° C. and stirred for 1 h. It was then cooled to −78° C. and a solution of IODINE (279 mg, 1.100 mmol) in THF (2 mL) was added. The reaction mixture was warmed to RT and stirred for 1 h. It was then quenched with saturated NH4Cl solution and extracted with ethyl acetate (2×25 mL). The organic layers were combined, washed with brine, dried over MgSO4, and then concentrated in vacuo. The crude product was obtained as a brown thick oil. This material was then purified by preparative HPLC using CH3CN/H2O/TFA as solvent system. Homogeneous fractions were combined and concentrated in vacuo. The concentrate was then extracted with ethyl acetate and the extracts combined and dried over MgSO4. The suspension was then filtered and the filtrand evaporated under reduced pressure to give the title compound as a white solid, (137 mg, 0.460 mmol, 46.0% yield). MS m/z 281 (MH+), Retention time: 1.107 min. (basic). 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 2.45 (s, 3 H) 3.84 (s, 3H) 3.91 (s, 3H).

reactant | methyl 1,3-dimethyl-1H-pyrazole-4-carboxylate | 1 mmol, 154 mg | CN1N=C(C(=C1)C(=O)OC)C | C7H10N2O2
reactant | BuLi | 1.100 mmol, 0.550 mL | [Li]CCCC
reactant | IODINE | 1.100 mmol, 279 mg | II | I2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Methyl 5-iodo-1,3-dimethyl-1H-pyrazole-4-carboxylate | 0.460 mmol, 137 mg, 46.0% yield | IC1=C(C(=NN1C)C)C(=O)OC | C7H9IN2O2
